US06271225B1
In the same manner as in Starting Material Synthesis Example 60 and using 2-bromo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid (6 g), thionyl chloride (30 ml), 2-amino-5-methylphenol (3.14 g), 2-bromo-4,5,6,7-tetrahydro-N-(2-hydroxy-4-methylphenyl)-benzo[b]thiophene-3-carboxamide (5.8 g) was obtained.

reactant | 2-bromo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid | 6 g | BrC1=C(C2=C(S1)CCCC2)C(=O)O | C9H9BrO2S
reactant | 2-amino-5-methylphenol | 3.14 g | NC1=C(C=C(C=C1)C)O | C7H9NO
solvent | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-bromo-4,5,6,7-tetrahydro-N-(2-hydroxy-4-methylphenyl)-benzo[b]thiophene-3-carboxamide | 5.8 g | BrC1=C(C2=C(S1)CCCC2)C(=O)NC2=C(C=C(C=C2)C)O | C16H16BrNO2S
